US05990177
2,2,4,4-tetramethyl-1,3-cyclobutanediol
Particularly preferred compounds of this invention are 5-norbornene-2,2-dimethanol; norbornane-2,2-dimethanol; 2-norbornanemethanol; 1,2-cis-cyclopentanediol; 2,3-cis-exo-norbornanediol, 2-(propyl-1,2-diol)-norbornane and 3,3-dimethyl-1,2-butanediol. Other preferred compounds are 1,2-trans-cyclopentanediol; 2,3-dimethyl-2,3-butanediol; 2-methyl-1,3-propanediol; 2,3-butanediol; and propylene glycol.

reactant | 5-norbornene-2,2-dimethanol | C12C(CC(C=C1)C2)(CO)CO | C9H14O2
reactant | norbornane-2,2-dimethanol | C12C(CC(CC1)C2)(CO)CO | C9H16O2
reactant | 2-norbornanemethanol | C12C(CC(CC1)C2)CO | C8H14O
reactant | 1,2-cis-cyclopentanediol | [C@@H]1([C@H](CCC1)O)O | C5H10O2
reactant | 3,3-dimethyl-1,2-butanediol | CC(C(CO)O)(C)C | C6H14O2
reactant | 1,2-trans-cyclopentanediol | [C@@H]1([C@@H](CCC1)O)O | C5H10O2
reactant | 2,3-dimethyl-2,3-butanediol | CC(C)(C(C)(O)C)O | C6H14O2
reactant | 2-methyl-1,3-propanediol | CC(CO)CO | C4H10O2
reactant | 2,3-butanediol | CC(C(C)O)O | C4H10O2
reactant | propylene glycol | C(C(C)O)O | C3H8O2
product | 2,2,4,4-tetramethyl-1,3-cyclobutanediol | CC1(C(C(C1O)(C)C)O)C | C8H16O2
